US04977155
A mixture of 0,3 g (1,35 mmol) 5,6-diamino-7-chloro-2,3-dihydroxyquinoxaline and 8 ml trifluoroacetic acid was refluxed for 3 h. After cooling to 0° C., the precipitated product was filtered off and washed with ice-cooled trifluoroacetic acid and ether to give 0,28 g (68%) 4-chloro-7,8-dihydroxy-2-trifluoromethyl-1H-imidazo(4,5-f)quinoxaline, m.p.>300° C. NMR (DMSO-d6): 7.10 (1H,s).

reactant | 5,6-diamino-7-chloro-2,3-dihydroxyquinoxaline | 1,35 mmol, 0,3 g | NC1=C2N=C(C(=NC2=CC(=C1N)Cl)O)O | C8H7ClN4O2
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-chloro-7,8-dihydroxy-2-trifluoromethyl-1H-imidazo(4,5-f)quinoxaline | 0,28 g, 68% | ClC1=C2C(=C3N=C(C(=NC3=C1)O)O)NC(=N2)C(F)(F)F | C10H4ClF3N4O2
